US09388197B2
A.1.6.3. 5,6-Dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile
To a soln. of 2-amino-5,6-dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile (1.00 g, 6.05 mmol) in THF (54 mL) was added tert-butyl nitrite (1.04 g, 9.08 mmol) and the mixture was stirred at 65° C. for 3 h. Subsequently, the mixture was quenched with aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (10-80% EtOAc/Hept) provided a yellow oil.

reactant | 2-amino-5,6-dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile | 6.05 mmol, 1.00 g | NC=1SC2=C(N1)CCC2C#N | C7H7N3S
reactant | tert-butyl nitrite | 9.08 mmol, 1.04 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 5,6-Dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile | S1C=NC2=C1C(CC2)C#N | C7H6N2S
